US08912188B2
A solution of 5-bromo-1-ethyl-1H-indazole (598 mg, 2.67 mmol) in dry tetrahydrofuran (30 mL) was cooled below −60° C. Then a solution of butyllithium in hexane (2.5 ml, 2.5M) was added dropwise. It was warmed to −10° C. during 45 min and stirred at this temperature for another 30 min. The mixture was cooled again below −60° C. followed by dropwise addition of triisopropyl borate (1.5 g, 7.98 mmol). After warming to room temperature the mixture was quenched with hydrochloric acid (3N) and stirred for 1 h. The alkaline aqueous layer was brought to pH 5 and extracted with ethyl acetate (3×80 ml). All organic layers were combined, dried over sodium sulfate, and concentrated in vacuum to give 1-ethyl-1H-indazol-5-ylboronic acid (450 mg, 89%) which was used for the next step without further purification.

reactant | 5-bromo-1-ethyl-1H-indazole | 2.67 mmol, 598 mg | BrC=1C=C2C=NN(C2=CC1)CC | C9H9BrN2
reactant | butyllithium | C(CCC)[Li]
reactant | triisopropyl borate | 7.98 mmol, 1.5 g | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | hexane | 2.5 ml | CCCCCC | C6H14
product | 1-ethyl-1H-indazol-5-ylboronic acid | 450 mg, 89% | C(C)N1N=CC2=CC(=CC=C12)B(O)O | C9H11BN2O2
